US05753664
5-Tert-butyl-1H-pyrazolo[3,4-d]pyridazin-4(5H)-one
2-Tert-butyl-5-dimethylamino-4-formyl-3(2H)-pyridazinone (3.5 g) was added to hydrazine (5.1 g)/ethanol (30 ml) and the mixture was refluxed for 40 hours. The solvent ethanol-hydrazine was then distilled off and the residue was extracted with ethyl acetate. The organic layer was washed with saturated aqueous NaCl solution, dried over anhydrous magnesium sulfate, and concentrated to dryness. The residue was washed with n-hexane-diethyl ether and dried. White powder, 1.9 g. 1H-NMR (CDCl3) δ: 1.71(9H,s), 8.19(1H,s), 8.32(1H,s).

reactant | 2-Tert-butyl-5-dimethylamino-4-formyl-3(2H)-pyridazinone | 3.5 g | C(C)(C)(C)N1N=CC(=C(C1=O)C=O)N(C)C | C11H17N3O2
reactant | hydrazine | 5.1 g | NN | H4N2
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 5-Tert-butyl-1H-pyrazolo[3,4-d]pyridazin-4(5H)-one | C(C)(C)(C)N1N=CC2=C(C1=O)C=NN2 | C9H12N4O
